US04515948
A suspension of 12.0 g. of sodium hydride (50% dispersion in oil) in 50 ml. of absolute dimethylformamide was treated with a solution of 46.0 g. of 4-acetamido-3,5-dimethoxy-toluene in 200 ml. of absolute dimethylformamide over a period of 30 minutes with stirring and exclusion of moisture. After stirring at room temperature for 4 hours, 31.2 ml. of methyl iodide were added dropwise over a period of 20 minutes with stirring and ice-cooling. The mixture was stirred at room temperature for 70 hours and subsequently evaporated to dryness under vacuum. The residue was treated with 300 ml. of water and the resulting suspension was extracted with two 500 ml. portions of ethyl acetate. The combined ethyl acetate extracts were washed with 300 ml. of water, dried over magnesium sulfate, filtered and evaporated under vacuum. Recrystallization of the residue from ethyl acetate gave 3,5-dimethoxy-4-(N-methyl-acetamido)-toluene having a melting point of 160°-161° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 4-acetamido-3,5-dimethoxy-toluene | C(C)(=O)NC1=C(C=C(C=C1OC)C)OC | C11H15NO3
reactant | methyl iodide | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3,5-dimethoxy-4-(N-methyl-acetamido)-toluene | COC=1C=C(C=C(C1N(C(C)=O)C)OC)C | C12H17NO3
